US07846960B2
(3-Fluoro-4-nitro-phenoxy)-triisopropyl-silane
A mixture of 3-fluoro-4-nitro-phenol (4.94 g, 31.4 mmol), triisopropylsilyl chloride (6.40 mL, 29.9 mmol), and imidazole (4.85 g, 70.7 mmol) in 70 mL of dichloromethane is stirred for 1.5 hours. Dichloromethane (100 mL) is added and the mixture is washed with water and brine, dried (MgSO4), and concentrated under reduced pressure. The residue is purified on silica gel (120 g) eluting with a gradient of ethyl acetate in heptane (0 to 80%) to provide the title compound (8.55 g, 87%) as an oil. ES/MS m/e 314.3.0 (M+1).

reactant | 3-fluoro-4-nitro-phenol | 31.4 mmol, 4.94 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | triisopropylsilyl chloride | 29.9 mmol, 6.40 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | imidazole | 70.7 mmol, 4.85 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (3-Fluoro-4-nitro-phenoxy)-triisopropyl-silane | 8.55 g, 87% | FC=1C=C(O[Si](C(C)C)(C(C)C)C(C)C)C=CC1[N+](=O)[O-] | C15H24FNO3Si
